US09370522B2
A solution of 1,2-bis(4-methoxyphenyl)ethane-1,2-dione (540 mg, 2.00 mmol, 1.00 equiv) and 4-bromobenzene-1,2-diamine (380 mg, 2.03 mmol, 1.10 equiv) in acetic acid (5 mL) was stirred for 3 h at 130° C. in an oil bath, then quenched by the addition of water (30 mL). The solids were collected by filtration and washed with water (20 mL). The solid was dried in an oven under reduced pressure, yielding 400 mg (48%) of 6-bromo-2,3-bis(4-methoxyphenyl)quinoxaline as a brown solid.

reactant | 1,2-bis(4-methoxyphenyl)ethane-1,2-dione | 2.00 mmol, 540 mg, 1.00 equiv | COC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)OC)=O | C16H14O4
reactant | 4-bromobenzene-1,2-diamine | 2.03 mmol, 380 mg, 1.10 equiv | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-2,3-bis(4-methoxyphenyl)quinoxaline | 400 mg, 48% | BrC=1C=C2N=C(C(=NC2=CC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C22H17BrN2O2
